US20010000513A1
In a manner similar to Example 4, Step (c), 4-(3′,4′-dichloro-biphenyl-4-yl)-4-oxo-butyric acid (1.23 g, 0.00381 mol) was allowed to react with hydroxylamine hydrochloride (0.2994 g, 0.00431 mol) in the presence of sodium carbonate (0.4567 g, 0.00431 mol) in absolute ethanol (20 mL) to give 1.257 g of 4-(3′,4′-dichloro-biphenyl-4-yl)-4-hydroxyimino-butyric acid as a white solid; mp 165.5-166.5° C.

reactant | 4-(3′,4′-dichloro-biphenyl-4-yl)-4-oxo-butyric acid | 0.00381 mol, 1.23 g | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H12Cl2O3
reactant | hydroxylamine hydrochloride | 0.00431 mol, 0.2994 g | Cl.NO
reactant | sodium carbonate | 0.00431 mol, 0.4567 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-(3′,4′-dichloro-biphenyl-4-yl)-4-hydroxyimino-butyric acid | 1.257 g | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)C(CCC(=O)O)=NO | C16H13Cl2NO3
